US06936612B2
4-{6-[8-Cyclopentyl-6-(2-ethoxy-ethyl)-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino]-pyridin-3-yl}-piperazine-1-carboxylic acid tert-butyl ester (0.325 g, 0.577 mmol) was dissolved in dichloromethane (4 mL). 2 N HCl in diethyl ether (4 mL) was added and the mixture was stirred at room temperature for 18 hours. The solvent was evaporated to give 8-cyclopentyl-6-(2-ethoxy-ethyl)-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt as a yellow solid (0.292 g, 97.7%). MS (APCI) Calc'd for M+H: 449.2. Found: 449.2. Anal. Calc'd for C25H33N7O2 2.6 HCl, 0.35 H2O: C, 52.26; H, 6.56; N, 16.88. Found: C, 52.01; H, 6.96; N, 16.88.

reactant | 4-{6-[8-Cyclopentyl-6-(2-ethoxy-ethyl)-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino]-pyridin-3-yl}-piperazine-1-carboxylic acid tert-butyl ester | 0.577 mmol, 0.325 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2)CCOCC)=O)C2CCCC2 | C30H41N7O4
reactant | HCl | 2 N | Cl | ClH
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 4 mL | C(C)OCC | C4H10O
product | 8-cyclopentyl-6-(2-ethoxy-ethyl)-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt | 0.292 g, 97.7% | Cl.C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)CCOCC)=O | InChI=1S/C25H33N7O2.ClH/c1-2-34-14-9-18-15-19-16-28-25(30-23(19)32(24(18)33)20-5-3-4-6-20)29-22-8-7-21(17-27-22)31-12-10-26-11-13-31;/h7-8,15-17,20,26H,2-6,9-14H2,1H3,(H,27,28,29,30);1H
